US05284847
A mixture of 3-t-butoxycarbonylaminothiophene-2-carboxylic acid (10.0 g, 41.1 mmol), diphenylphosphoryl azide (14.14 g, 51.37 mmol) and triethylamine (5.85 ml, 42.2 mmol) in t-butyl alcohol (1000 ml) was stirred under reflux for 10 hours. The mixture was evaporated and the residue was dissolved in methylene chloride (300 ml). The solution was washed successively with 5% aqueous citric acid, water, saturated aqueous NAHCO3, followed by evaporation to give 5.9 g of a substance which was purified by recrystallization from heptane-methylene chloride to afford di-t-butyl thiophene-2,3-dicarbamate. M.p. 168°-170° C. Litt. m.p.: 165°-167° C. (J. Chem. Res. (S), 296, 1985).

reactant | 3-t-butoxycarbonylaminothiophene-2-carboxylic acid | 41.1 mmol, 10.0 g | C(C)(C)(C)OC(=O)NC1=C(SC=C1)C(=O)O | C10H13NO4S
reactant | diphenylphosphoryl azide | 51.37 mmol, 14.14 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 42.2 mmol, 5.85 ml | C(C)N(CC)CC | C6H15N
reactant | t-butyl alcohol | 1000 ml | C(C)(C)(C)O | C4H10O
product | di-t-butyl thiophene-2,3-dicarbamate | S1C(=C(C=C1)NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C14H22N2O4S
